US06548671B2
Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide
To a solution of 4-(tert-butyl-dimethyl-silanyloxy)-2-(3-fluoro-3-methyl-butyl)-6-phenyl-5-[(quinoxaline-2-carbonyl)-amino]-hexanoic acid (515 mg, 0.885 mmol) in methylene chloride (9 mL) was added ethanolamine (0.080 mL, 1.33 mmol), 1-hydroxybenzotriazole (215 mg, 1.59 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (288 mg, 1.50 mmol) and triethylamine (0.247 mL, 1.77 mmol). The resulting solution was stirred for 17 hours then diluted with ethyl acetate and washed with water then saturated aqueous sodium chloride. The organic layer was then dried over sodium sulfate, filtered, and concentrated. Chromatography on silica gel gave the title compound (343 mg, 62%).

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-2-(3-fluoro-3-methyl-butyl)-6-phenyl-5-[(quinoxaline-2-carbonyl)-amino]-hexanoic acid | 0.885 mmol, 515 mg | C(C)(C)(C)[Si](OC(CC(C(=O)O)CCC(C)(C)F)C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)(C)C | C32H44FN3O4Si
reactant | ethanolamine | 1.33 mmol, 0.080 mL | C(O)CN | C2H7NO
reactant | 1-hydroxybenzotriazole | 1.59 mmol, 215 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.50 mmol, 288 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.77 mmol, 0.247 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide | 343 mg, 62% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(NCCO)=O)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H49FN4O4Si
